US08232289B2
To a solution of isopropyl 1-(3-fluoro-2-pyridyl)-3-(isopropoxymethyl)pyrazole-4-carboxylate (316 mg, 0.98 mmol) in diethyl ether (4.9 mL) under nitrogen and cooled to 0° C., 1M lithium aluminium hydride in tetrahydrofuran (1.2 mL) is added. The mixture is stirred at 0° C. for 1 hour. Water (46 μL) is added and stirred for 5 min, then 15% aqueous solution of NaOH (46 μL) and water (138 μL) are successively added. Solids are filtered and solvent evaporated to obtain 241 mg of [1-(3-fluoro-2-pyridyl)-3-(isopropoxymethyl)pyrazol-4-yl]methanol that is used without further purification. MS (m/z): 266 (M+1).

reactant | isopropyl 1-(3-fluoro-2-pyridyl)-3-(isopropoxymethyl)pyrazole-4-carboxylate | 0.98 mmol, 316 mg | FC=1C(=NC=CC1)N1N=C(C(=C1)C(=O)OC(C)C)COC(C)C | C16H20FN3O3
reactant | lithium aluminium hydride | 1M | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Water | 46 μL | O | H2O
reactant | NaOH | 46 μL | [OH-].[Na+]
reactant | water | 138 μL | O | H2O
solvent | diethyl ether | 4.9 mL | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 1.2 mL | O1CCCC1 | C4H8O
product | [1-(3-fluoro-2-pyridyl)-3-(isopropoxymethyl)pyrazol-4-yl]methanol | 241 mg | FC=1C(=NC=CC1)N1N=C(C(=C1)CO)COC(C)C | C13H16FN3O2
